US07919506B2
Step A: N-(3,5-bis(trifluoromethyl)benzylidene)(2-chloro-5-(trifluoromethyl)phenyl)methanamine
To a 100 mL round bottom flask, equipped with a Dean Start Trap was charged 50 mL of toluene, 5.0 gm of 2-chloro-5-trifluoromethyl benzyl amine and 5.8 gm of 3,5-bis(trifluoromethyl)benzaldehyde and 50 mg of para-toluenesulfonamide. The reaction was heated until water no longer distilled off about 3 hours, then cooled to ambient temperature and the solvent removed in vacuum. The crude product was used directly in the next step without further purification. 10.0 gm.

reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-chloro-5-trifluoromethyl benzyl amine | 5.0 gm | ClC1=C(CN)C=C(C=C1)C(F)(F)F | C8H7ClF3N
reactant | 3,5-bis(trifluoromethyl)benzaldehyde | 5.8 gm | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | para-toluenesulfonamide | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)N)C | C7H9NO2S
solvent | water | O | H2O
product | N-(3,5-bis(trifluoromethyl)benzylidene)(2-chloro-5-(trifluoromethyl)phenyl)methanamine | FC(C=1C=C(C=NCC2=C(C=CC(=C2)C(F)(F)F)Cl)C=C(C1)C(F)(F)F)(F)F | C17H9ClF9N
